US05872272
500 g (2.81 mol) of 2-(2-ethylhexyloxy)ethanol and 500 g of thionyl chloride were placed in a 2-liter four-neck flask and refluxed with heat for 2 hours. Subsequently, a distillation under reduced pressure was conducted to obtain 510 g of 2-(2-ethylhexyloxy)ethylchloride as a colorless oil.

reactant | 2-(2-ethylhexyloxy)ethanol | 2.81 mol, 500 g | C(C)C(COCCO)CCCC | C10H22O2
reactant | thionyl chloride | 500 g | S(=O)(Cl)Cl | Cl2OS
product | 2-(2-ethylhexyloxy)ethylchloride | 510 g | C(C)C(COCCCl)CCCC | C10H21ClO
